US06423688B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-L-asparagine
N-(Toluene4-sulfonyl)-L-proline hydrate was coupled to L-asparagine tert-butyl ester hydrochloride using the procedure described in Method 3. The title compound was prepared, via cleavage of the tert-butyl ester using trifluoroacetic acid in CH2Cl2, to provide a solid, mp=178-180° C.

reactant | N-(Toluene4-sulfonyl)-L-proline hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C
reactant | L-asparagine tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC([C@@H](N)CC(N)=O)=O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(Toluene-4-sulfonyl)-L-prolyl-L-asparagine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](CC(N)=O)C(=O)O)CCC1)C | C16H21N3O6S
